US04382143
Preparation of ethyl 5-hexadecanamido-2-furancarboxylate
To a solution of 28.7 g. of ethyl 5-amino-2-furancarboxylate, 50 ml. of triethylamine and 300 ml. of methylene chloride is added 51.7 g. of palmitoyl chloride dropwise. The reaction mixture is allowed to stir for 48 hours. The solvent is evaporated and the residue dissolved in a small amount of methylene chloride. The methylene chloride solution is filtered through Magnesol and concentrated to an oil. The product is obtained by cryytallization of the residual oil from hexane.

reactant | ethyl 5-amino-2-furancarboxylate | NC1=CC=C(O1)C(=O)OCC | C7H9NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 5-hexadecanamido-2-furancarboxylate | C(CCCCCCCCCCCCCCC)(=O)NC1=CC=C(O1)C(=O)OCC | C23H39NO4
